US09328099B2
Step D. Tert-Butyl 4-(cyanomethyl)-4-[4-(methylcarbamoyl)-3-(phenylamino)-1H-pyrazol-1-yl]piperidine-1-carboxylate
To a solution of 1-[1-(tert-butoxycarbonyl)-4-(cyanomethyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxylic acid (25 mg, 0.059 mmol) in DCM (0.6 mL) was added DIPEA (0.030 mL, 0.18 mmol), methylamine (0.040 mL, 0.082 mmol, 2.0 M in THF), HOBT (13 mg, 0.082 mmol), and EDC (16 mg, 0.082 mmol). The resulting mixture was maintained at ambient temperature for 18 hours, then purified directly by MPLC on silica gel (using a gradient elution of 0-10% MeOH/DCM) to afford the title compound.

reactant | 1-[1-(tert-butoxycarbonyl)-4-(cyanomethyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxylic acid | 0.059 mmol, 25 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC#N)N1N=C(C(=C1)C(=O)O)NC1=CC=CC=C1 | C22H27N5O4
reactant | DIPEA | 0.18 mmol, 0.030 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine | 0.082 mmol, 2.0 M, 0.040 mL | CN | CH5N
reactant | HOBT | 0.082 mmol, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.082 mmol, 16 mg
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
product | Tert-Butyl 4-(cyanomethyl)-4-[4-(methylcarbamoyl)-3-(phenylamino)-1H-pyrazol-1-yl]piperidine-1-carboxylate | C(#N)CC1(CCN(CC1)C(=O)OC(C)(C)C)N1N=C(C(=C1)C(NC)=O)NC1=CC=CC=C1 | C23H30N6O3
